US06340749B1
Synthesis of Chloro(2-Cyanoethoxy)morpholinophosphine
To a solution of 2-Cyanoethyldichlorophosphite (3.0 g, 17.5 mmol, 2.2 mL) in CH2Cl2 (45 mL) was added dropwise 4-(trimethylsilyl)morpholine (3.1 mL, 2.8 g, 17.5 mmol) at 0° C. The resulting mixture was stirred for 2 h at room temperature. The solvent was removed under reduced pressure to give a pale yellow oil (3.87 g, 86%) as a product.

reactant | 2-Cyanoethyldichlorophosphite | 17.5 mmol, 2.2 mL, 3.0 g | C(#N)CCOP(Cl)Cl | C3H4Cl2NOP
reactant | 4-(trimethylsilyl)morpholine | 17.5 mmol, 3.1 mL, 2.8 g | C[Si](N1CCOCC1)(C)C | C7H17NOSi
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | Chloro(2-Cyanoethoxy)morpholinophosphine | 3.87 g, 86% | ClP(N1CCOCC1)OCCC#N | C7H12ClN2O2P
